US07378445B2
Ingenol can be converted to ingenol-3,4-acetonide by treatment with 4-toluenesulphonic acid hydrate and acetone to give ingenol-3,4:5,20-diacetonide followed by treatment with perchloric acid in methanol or zinc bromide in dichloromethane and methanol according to the method of Opferkuch et al. (1981). Ingenol-3,4-acetonide could be converted to ingenol-3,4-acetonide-20-trityl ether by treatment with trityl chloride and 4-(N,N-dimethylamino)pyridine in dry pyridine, acylated in an analogous manner to that described in Example 1 or Example 3 to give the ingenol-3,4-acetonide-20-trityl ether 5-acylate then treated with methanolic perchloric acid according to the method of Example 15 or Example 18 to give the ingenol 5-acylate. The ingenol 5-acylate could then be converted to the ingenol-3,4-acetonide 5-acylate by treatment with 4-toluenesulphonic acid hydrate and acetone according to the method of Opferkuch et al. (1981). The ingenol-3,4-acetonide 5-acylate could be converted to the 20-chloro-20-deoxy-3,4-acetonide 5-acylate by the method of Example 15.

reactant | Ingenol | C[C@@H]1C[C@@H]2[C@@H](C2(C)C)[C@@H]3C=C([C@H]([C@]4([C@@]1(C3=O)C=C([C@@H]4O)C)O)O)CO | C20H28O5
reactant | 4-toluenesulphonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetone | CC(=O)C | C3H6O
product | ingenol-3,4:5,20-diacetonide | CC1CC2C(C2(C)C)C3C=C4COC(OC4C56C1(C3=O)C=C(C5OC(O6)(C)C)C)(C)C | C26H36O5
